US07253165B2
Synthesis of (2-chloro-pyridin-3-yl)-(3-methoxy-phenyl)-methanone (Scheme II, Compound 5)
Combine (2-chloro-pyridin-3-yl)-(3-methoxy-phenyl)-methanol (9.40 g, 37.6 mmol), manganese (IV) oxide (30.0 g, 0.345 mol) and toluene (500 mL) and heat to reflux for one hour. Filter reaction mixture through celite, wash with toluene:dichloromethane mixture and evaporate to give the title compound (1.63 g, 66% Yield).

reactant | (2-chloro-pyridin-3-yl)-(3-methoxy-phenyl)-methanol | 37.6 mmol, 9.40 g | ClC1=NC=CC=C1C(O)C1=CC(=CC=C1)OC | C13H12ClNO2
catalyst | manganese (IV) oxide | 0.345 mol, 30.0 g | [O-2].[Mn+4].[O-2]
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | (2-chloro-pyridin-3-yl)-(3-methoxy-phenyl)-methanone | 1.63 g, 66% Yield | ClC1=NC=CC=C1C(=O)C1=CC(=CC=C1)OC | C13H10ClNO2
